US05627203
N-[2-(Pyrrol-1-yl)thiophen-3-ylcarbonyl]pyrrolidine
Add 50 ml of pyrrolidine dropwise, at room temperature, to a solution of 2-(pyrrol-1-yl)thiophen-3-ylcarbonyl azide (Heterocycles, (1983), 20, 477) in 500 ml of dichloromethane. The reaction mixture is stirred for 12 hours at room temperature and then washed three times with 150 ml of 1N hydrochloric acid each time and then with 150 ml of water. The organic phase is then dried over calcium chloride and subsequently concentrated to dryness to yield the title compound in the form of an oil.

reactant | pyrrolidine | 50 ml | N1CCCC1 | C4H9N
reactant | 2-(pyrrol-1-yl)thiophen-3-ylcarbonyl azide | N1(C=CC=C1)C=1SC=CC1C(=O)N=[N+]=[N-] | C9H6N4OS
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-[2-(Pyrrol-1-yl)thiophen-3-ylcarbonyl]pyrrolidine | Yield: 73% | N1(C=CC=C1)C=1SC=CC1C(=O)N1CCCC1 | C13H14N2OS
